* ==========================================================================
* @part: IRF3205
* @family: mosfet
* @source: Infineon
* @url: https://www.infineon.com (product page -> Simulation models; manual download)
* @origin-file: manual/infineon/irf3205.spi
* @retrieved: 2026-09-24
* @licence: notice: "Copyright(c) Symmetry Design Systems"
* @added-by: garv.singh
* @pins: irf3205: 1 2 3
* The complete origin file follows, unchanged.
* ==========================================================================

.SUBCKT irf3205 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Apr 25, 01
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3.73234 LAMBDA=0 KP=95.6501
+CGSO=3.64213e-05 CGDO=3.70824e-07
RS 8 3 0.00550387
D1 3 1 MD
.MODEL MD D IS=3.83979e-08 RS=0.00445428 N=1.48671 BV=55
+IBV=0.00025 EG=1 XTI=2.99617 TT=0.0001
+CJO=3.67939e-09 VJ=1.02405 M=0.469188 FC=0.5
RDS 3 1 2.2e+06
RD 9 1 0.0001
RG 2 7 3.97088
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=4.94117e-09 VJ=0.598326 M=0.650772 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.433451 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 4.94117e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.433451
.ENDS irf3205
